US07232827B2
(+/−)7,7-Dimethyl-2-(pyridin-4-yl)-9-[2-(pyridin-4-yl)-6,7-dihydro-5H-[1]pyrindin-6-ylmethyl]-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidine-4-one
To a solution of 0.22 g (0.521 mmol) of (+/−)9-(2-chloro-6,7-dihydro-5H-[1]pyrindin-6-ylmethyl)-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one in 3 ml of anhydrous toluene and 0.5 ml of ethanol was treated with 0.625 ml (2M solution in water) of sodium carbonate, 36 mg (0.03 mmol) of tetrakis(triphenylphosphine)palladium and 0.096 g (0.781 mmol) of pyridine-4-boronic acid. After being stirred for 24 h at 140° C., water was added, the mixture was extracted with dichloromethane. The organic phase was dried and evaporated to give crude product, which was purified by silica gel chromatography, eluting with dichloromethane/methanol/ammonia in the proportions 99/1/0.1 to give 0.049 g of pure product obtained in the form of free base. Mp: 170–171° C.

reactant | (+/−)9-(2-chloro-6,7-dihydro-5H-[1]pyrindin-6-ylmethyl)-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.521 mmol, 0.22 g | ClC1=NC=2CC(CC2C=C1)CN1CC(CN2C1=NC(=CC2=O)C2=CC=NC=C2)(C)C | C23H24ClN5O
reactant | sodium carbonate | 2M, 0.625 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyridine-4-boronic acid | 0.781 mmol, 0.096 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | water | O | H2O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 36 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (+/−)7,7-Dimethyl-2-(pyridin-4-yl)-9-[2-(pyridin-4-yl)-6,7-dihydro-5H-[1]pyrindin-6-ylmethyl]-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidine-4-one | 0.049 g | CC1(CN(C=2N(C(C=C(N2)C2=CC=NC=C2)=O)C1)CC1CC=2C=CC(=NC2C1)C1=CC=NC=C1)C | C28H28N6O
